US04820715
4-Amino-2-(2-butanon-3-yl)oxy-5-chloro-N-[2-(diethylamino)ethyl]benzamide hydrochloride
A solution of the tetra-n-butylammonium salt of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (0.53 g, 1.0 mmole) in acetonitrile (6 ml) was treated with 3-chloro-2-butanone (0.11 ml, 0.12 g, 1.1 mmole) and stirred at 20° for 16 hours. After removal of the acetonitrile at reduced pressure, the residue was treated with 10 ml water and extracted with ethyl acetate. The extracts were washed with dilute sodium carbonate, dried and concentrated to leave an oil which was converted to a monohydrochloride salt with 1.0 ml 1N hydrochloric acid. Crystallization of this salt from 2-propanol-ethyl acetate gave the title compound, mp. 176°-179°. This material was identical to that prepared in Example 7C.

reactant | tetra-n-butylammonium | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 1.0 mmole, 0.53 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 3-chloro-2-butanone | 1.1 mmole, 0.11 ml, 0.12 g | ClC(C(C)=O)C | C4H7ClO
reactant | monohydrochloride | Cl | ClH
reactant | hydrochloric acid | 1N, 1.0 ml | Cl | ClH
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 4-Amino-2-(2-butanon-3-yl)oxy-5-chloro-N-[2-(diethylamino)ethyl]benzamide hydrochloride | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OC(C(C)=O)C | InChI=1S/C17H26ClN3O3.ClH/c1-5-21(6-2)8-7-20-17(23)13-9-14(18)15(19)10-16(13)24-12(4)11(3)22;/h9-10,12H,5-8,19H2,1-4H3,(H,20,23);1H
